US06610734B2
Trimethylsilyldiazomethane (3.1 mL, 6.1 mmol) was added to a solution of N-[(5-chloro-2-thienyl)sulfonyl]-3-ethyl-L-norvaline (1.0 g, 3.1 mmol) in THF (20 mL) and MeOH (5 mL). After 2 h the mixture was concentrated to give N-[(5-chloro-2-thienyl)sulfonyl]-3-ethyl-L-norvaline methyl ester as a white solid (1.0 g, 99%). Mass Spectrum (−ESI): 338.00 (M−H)−.

reactant | Trimethylsilyldiazomethane | 6.1 mmol, 3.1 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | N-[(5-chloro-2-thienyl)sulfonyl]-3-ethyl-L-norvaline | 3.1 mmol, 1.0 g | ClC1=CC=C(S1)S(=O)(=O)N[C@@H](C(CC)CC)C(=O)O | C11H16ClNO4S2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | MeOH | 5 mL | CO | CH4O
product | N-[(5-chloro-2-thienyl)sulfonyl]-3-ethyl-L-norvaline methyl ester | 1.0 g, 99% | COC([C@@H](NS(=O)(=O)C=1SC(=CC1)Cl)C(CC)CC)=O | C12H18ClNO4S2
